US04472305
Condensation of BocDArg(Tos)OH (2.14 g.) and HLeu-MetNH2 hydrochloride salt (Example 1, 1.49 g.) using dicyclohexylcarbodiimide and 1-hydroxybenzotriazole gave BocDArg(Tos)-Leu-MetNH2 in 54% yield. De-t-butoxycarbonylation of BocDArg(Tos)-Leu-MetNH2 (1.7 g.) using hydrogen chloride in dioxane gave HDArg(Tos)-Leu-MetNH2 in 45% yield.

reactant | BocDArg(Tos)-Leu-MetNH2 | 1.7 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C29H49N7O7S2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | HDArg(Tos)-Leu-MetNH2 | 45% yield | N[C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | C24H41N7O5S2
